US08859553B2
4-Chloro-3-(2-(6-(isopropylamino)pyridazin-3-yl)ethynyl)-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide
The title compound was synthesized from N-isopropyl-6-ethynylpyridazin-3-amine and 4-chloro-3-iodo-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide in a manner similar to that described for in Example 1. The product was obtained as a pale yellow solid. Mp: 133-134° C.; 1H NMR (300 MHz, CDCl3) δ: 9.62 (1H, s), 8.11 (1H, s), 8.05 (1H, s), 8.01-8.03 (1H, d, J=9.0 Hz), 7.86-7.88 (1H, d, J=6.0 Hz), 7.60-7.63 (1H, d, J=6.0 Hz), 7.44-7.47 (1H, d, J=9.0 Hz), 7.33-7.36 (1H, d, J=9.0 Hz), 6.63-6.66 (1H, d, J=9.0 Hz), 3.99-4.07 (1H, m), 3.67 (2H, s), 2.84 (8H, brs), 2.56 (3H, s), 1.25-1.30 (6H, m). HRMS (ESI-TOF+): m/z [M+H]+ calcd for C29H30ClF3N6O: 571.2194. found: 571.2209.

reactant | N-isopropyl-6-ethynylpyridazin-3-amine | C(C)(C)NC=1N=NC(=CC1)C#C | C9H11N3
reactant | 4-chloro-3-iodo-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide | ClC1=C(C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=C1)I | C20H20ClF3IN3O
product | 4-Chloro-3-(2-(6-(isopropylamino)pyridazin-3-yl)ethynyl)-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide | ClC1=C(C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=C1)C#CC=1N=NC(=CC1)NC(C)C | C29H30ClF3N6O
